US06838464B2
4-Anilino-5-bromo-2-[4-(aminomethyl)anilino]pyrimidine
4-Aminobenzylamine (122 mg, 1.0 mmol) and ethereal hydrogen chloride (1.0M; 1.0 ml, 1.0 mmol) were added to a solution of 4-anilino-5-bromo-2-chloropyrimidine (256 mg, 0.9 mmol) in n-butanol (4 ml) and the mixture was heated at 100° C. for 16 hours. The insoluble solid was filtered off and dissolved in methanol (5 ml). Silica (2 g) was added and volatile material was removed by evaporation. The residue was purified by bond elute chromatography, eluting with 0-4% 2.0M methanolic ammonia solution in DCM, to give the product (163 mg, 49%): LCMS (MH+): 370, 372; HPLC (RT, System A): 2.04.

reactant | 4-Aminobenzylamine | 1.0 mmol, 122 mg | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | hydrogen chloride | 1.0 mmol, 1.0M, 1.0 ml | Cl | ClH
reactant | 4-anilino-5-bromo-2-chloropyrimidine | 0.9 mmol, 256 mg | N(C1=CC=CC=C1)C1=NC(=NC=C1Br)Cl | C10H7BrClN3
solvent | n-butanol | 4 ml | C(CCC)O | C4H10O
product | 4-Anilino-5-bromo-2-[4-(aminomethyl)anilino]pyrimidine | 163 mg, 49% | N(C1=CC=CC=C1)C1=NC(=NC=C1Br)NC1=CC=C(C=C1)CN | C17H16BrN5
